US07696234B2
[4-(Pyridin-3-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure B using (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 3-(bromomethyl)pyridine hydrobromide. MS (ES+) 366.2

reactant | (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | 3-(bromomethyl)pyridine hydrobromide | Br.BrCC=1C=NC=CC1
product | [4-(Pyridin-3-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1=CC(=CC=C1)COC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H27N3O2
